US08071592B2
1-(2-{4-[(2,3-dihydrofuro[2,3-c]pyridin-5-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-2(1H)-quinoxalinone Dihydrochloride
A solution of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-(methyloxy)-2(1H)-quinoxalinone (see Example 47(a) for a preparation) (50 mg; 0.17 mmol) and 2,3-dihydrofuro[2,3-c]pyridine-5-carbaldehyde (see Example 38(f) for a preparation) (27 mg, 0.18 mmol) in methanol (2 mL) and chloroform (2 mL) was heated under reflux with 3A molecular sieves overnight. The mixture was cooled and sodium triacetoxyborohydride (0.18 g; 0.85 mmol) was added, and the mixture was stirred at room temperature overnight. More aldehyde (30 mg) and acetoxyborohydride (0.180 g) were added, and the mixture was stirred at room temperature overnight. Further additions of aldehyde (5.4 mg) and acetoxyborohydride (36 mg and 6 mg) were made. The mixture was stirred overnight again, then aqueous sodium bicarbonate solution was added to neutralise and the phases were separated. The aqueous phase was extracted four times with 10% methanol-dichloromethane, and the organic fractions were dried and evaporated. Chromatography on silica gel, eluting with 0-20% methanol-dichloromethane gave the free base of the title compound (56 mg, 76%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-(methyloxy)-2(1H)-quinoxalinone | NC1CCN(CC1)CCN1C(C=NC2=CC=C(C=C12)OC)=O | C16H22N4O2
reactant | 2,3-dihydrofuro[2,3-c]pyridine-5-carbaldehyde | O1CCC=2C1=CN=C(C2)C=O | C8H7NO2
reactant | sodium triacetoxyborohydride | 0.85 mmol, 0.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetoxyborohydride | 0.180 g | C(C)(=O)O[BH3-]
reactant | acetoxyborohydride | 36 mg | C(C)(=O)O[BH3-]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2 mL | CO | CH4O
product | 1-(2-{4-[(2,3-dihydrofuro[2,3-c]pyridin-5-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-2(1H)-quinoxalinone Dihydrochloride | 56 mg, 76% | Cl.Cl.O1CCC=2C1=CN=C(C2)CNC2CCN(CC2)CCN2C(C=NC1=CC=C(C=C21)OC)=O | InChI=1S/C24H29N5O3.2ClH/c1-31-20-2-3-21-22(13-20)29(24(30)16-27-21)10-9-28-7-4-18(5-8-28)25-14-19-12-17-6-11-32-23(17)15-26-19;;/h2-3,12-13,15-16,18,25H,4-11,14H2,1H3;2*1H
